US07442839B2
v) N-{5-[(1R)-2-Amino-1-hydroxyethyl]-2-hydroxyphenyl}methanesulfonamide
To an evacuated flask containing palladium hydroxide (70.8 mg) and palladium on carbon [50% water by weight] (70.8 mg) was added a solution of N-{5-((1R)-1-hydroxy-2-{[(1S)-2-hydroxy-1-phenylethyl]amino}ethyl)-2-[(phenylmethyl)oxy]phenyl}-N-(phenylmethyl)methanesulfonamide (354 mg) in EtOH (15 ml) and AcOH (3 ml). The mixture was hydrogenated for 19 h. The catalysts were filtered off and the filtrate concentrated in vacuo. The mixture was purified by column chromatography (Oasis cartridge, 0 to 50% MeOH in water) to afford the title compound. LCMS RT=0.35 min

reactant | N-{5-((1R)-1-hydroxy-2-{[(1S)-2-hydroxy-1-phenylethyl]amino}ethyl)-2-[(phenylmethyl)oxy]phenyl}-N-(phenylmethyl)methanesulfonamide | 354 mg | O[C@@H](CN[C@H](CO)C1=CC=CC=C1)C=1C=CC(=C(C1)N(S(=O)(=O)C)CC1=CC=CC=C1)OCC1=CC=CC=C1 | C31H34N2O5S
catalyst | palladium on carbon | 70.8 mg | [Pd] | Pd
solvent | EtOH | 15 ml | CCO | C2H6O
solvent | AcOH | 3 ml | CC(=O)O | C2H4O2
catalyst | palladium hydroxide | 70.8 mg | [OH-].[Pd+2].[OH-]
product | N-{5-[(1R)-2-Amino-1-hydroxyethyl]-2-hydroxyphenyl}methanesulfonamide | NC[C@H](O)C=1C=CC(=C(C1)NS(=O)(=O)C)O | C9H14N2O4S
